US08957104B2
A. Methyl 2-(4,5-dicyano-2-(difluoromethyl)-1H-indol-1-yl)propanoate
Synthesized in a manner similar to Example 1 using 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile (see, for example, US2008139631A1) and methyl 2-bromopropanoate: MS (ESI): m/z 304 (M+H).

reactant | 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1NC2=CC=C(C(=C2C1)C#N)C#N)F | C11H5F2N3
reactant | methyl 2-bromopropanoate | BrC(C(=O)OC)C | C4H7BrO2
product | Methyl 2-(4,5-dicyano-2-(difluoromethyl)-1H-indol-1-yl)propanoate | C(#N)C1=C2C=C(N(C2=CC=C1C#N)C(C(=O)OC)C)C(F)F | C15H11F2N3O2
